US06962933B1
N-[4-[4-(1,1-dimethylethyl)phenyl]-5-(4-pyridyl)-1,3-thiazol-2-yl]cyclopentanecarboxamide
To a solution of [4-[4-(1,1-dimethylethyl)phenyl]-5-(4-pyridyl)-1,3-thiazol-2-yl]amine (0.50 g, 1.62 mmol) and 4-dimethylaminopyridine (0.06 g, 0.49 mmol) in N,N-dimethylacetamide (5 mL) was added cyclopentanecarbonyl chloride (0.32 g, 2.42 mmol) and the mixture was stirred at 70° C. for 14 h. To the reaction mixture was poured aqueous sodium hydrogencarbonate solution and the precipitated solid was collected by filtration. The obtained solid was washed with water and dried. The crude crystals were recrystallized from ethanol to give the title compound (0.43 g, yield 66%).

reactant | [4-[4-(1,1-dimethylethyl)phenyl]-5-(4-pyridyl)-1,3-thiazol-2-yl]amine | 1.62 mmol, 0.50 g | CC(C)(C)C1=CC=C(C=C1)C=1N=C(SC1C1=CC=NC=C1)N | C18H19N3S
reactant | cyclopentanecarbonyl chloride | 2.42 mmol, 0.32 g | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 0.49 mmol, 0.06 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-[4-(1,1-dimethylethyl)phenyl]-5-(4-pyridyl)-1,3-thiazol-2-yl]cyclopentanecarboxamide | 0.43 g, yield 66% | CC(C)(C)C1=CC=C(C=C1)C=1N=C(SC1C1=CC=NC=C1)NC(=O)C1CCCC1 | C24H27N3OS
